US07696221B2
Step 3: 2,5-Diethyl-4-[(4-methoxyphenyl)sulfonyl]-4,5-dihydrothieno[3,2-c]isoquinoline (Compound 16)
A solution of 5-ethyl-4-[(4-methoxyphenyl)sulfonyl]-2-vinyl4,5-dihydrothieno[3,2-c]isoquinoline (1.44 g, 3.50 mmol) in ethyl acetate (35 mL) was hydrogenated over 10% palladium-on-carbon (0.29 g) at 23° C. and 1 atm. After 1 h the catalyst was filtered (Celite), washed with ethyl acetate (35 mL), and the filtrate was concentrated in vacuo to give the crude product (1.37 g) as a pale yellow solid. Recrystallization from boiling hexane provided the title compound (1.26 g, 87%, m.p. 105.0-105.5° C.) as shiny pale yellow needles.

reactant | 5-ethyl-4-[(4-methoxyphenyl)sulfonyl]-2-vinyl4,5-dihydrothieno[3,2-c]isoquinoline | 3.50 mmol, 1.44 g | C(C)C1N(C2=C(C=3C=CC=CC13)SC(=C2)C=C)S(=O)(=O)C2=CC=C(C=C2)OC | C22H21NO3S2
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.29 g | [Pd] | Pd
product | 2,5-Diethyl-4-[(4-methoxyphenyl)sulfonyl]-4,5-dihydrothieno[3,2-c]isoquinoline | 1.26 g, 87% | C(C)C1=CC=2N(C(C=3C=CC=CC3C2S1)CC)S(=O)(=O)C1=CC=C(C=C1)OC | C22H23NO3S2
